US08980305B2
Naloxone/Fentanyl
Fentanyl citrate was added to the carrier material in amounts corresponding to a batch size of 300 tablets. Mixing was carried out under the same conditions as those described in Example 1. Croscarmellose sodium and silicified microcrystalline cellulose, and then magnesium stearate, were added and admixed under the same conditions as those described in Example 1.

reactant | Fentanyl citrate | CCC(=O)N(C=1C=CC=CC1)C2CCN(CC2)CCC=3C=CC=CC3.C(C(=O)O)C(CC(=O)O)(C(=O)O)O
reactant | magnesium stearate | C(CCCCCCCCCCCCCCCCC)(=O)[O-].[Mg+2].C(CCCCCCCCCCCCCCCCC)(=O)[O-]
product | Naloxone Fentanyl | C=CCN1CC[C@]23C4=C5C=CC(=C4O[C@H]2C(=O)CC[C@]3([C@H]1C5)O)O.CCC(=O)N(C=1C=CC=CC1)C2CCN(CC2)CCC=3C=CC=CC3 | InChI=1S/C22H28N2O.C19H21NO4/c1-2-22(25)24(20-11-7-4-8-12-20)21-14-17-23(18-15-21)16-13-19-9-5-3-6-10-19;1-2-8-20-9-7-18-15-11-3-4-12(21)16(15)24-17(18)13(22)5-6-19(18,23)14(20)10-11/h3-12,21H,2,13-18H2,1H3;2-4,14,17,21,23H,1,5-10H2/t;14-,17+,18+,19-/m.1/s1
